US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(5,7-dimethyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 5,7-dimethyl-1,2,3,4-tetrahydro-1-naphthylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 5,7-dimethyl-1,2,3,4-tetrahydro-1-naphthylamine | CC1=C2CCCC(C2=CC(=C1)C)N | C12H17N
product | 2-[1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(5,7-dimethyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NC2CCCC3=C(C=C(C=C23)C)C)C=CC1OC | C34H42N2O5
